US07173045B2
In a water separator, indole (50 g, 0.43 mol.), δ-valerolactone (tetrahydropyran-2-one, 49.2 g, 0.49 mol.), potassium hydroxide (35.9 g, 0.64 mol.) in p-cymene (1-isopropyl-4-methylbenzene, 250 ml) were heated at boiling for 4 d, with stirring. For working up, water (200 ml) was added to the mixture, the phases were separated, and the aqueous phase was adjusted to pH 4 with 2M HCl and stored for 2 d at 4° C. in a refrigerator. The resulting solid was filtered off with suction and washed with water (3×20 ml). Recrystallisation from ether (50 ml) yielded 5-(1H-indol-3-yl)pentanoic acid in the form of a white solid having a melting point of 80–83° C. in a yield of 38.8 g.

reactant | water | O | H2O
reactant | indole | 0.43 mol, 50 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | δ-valerolactone | 0.49 mol, 49.2 g | C1(CCCCO1)=O | C5H8O2
reactant | potassium hydroxide | 0.64 mol, 35.9 g | [OH-].[K+]
reactant | water | 200 ml | O | H2O
solvent | p-cymene | 250 ml | CC=1C=CC(=CC1)C(C)C | C10H14
product | 5-(1H-indol-3-yl)pentanoic acid | N1C=C(C2=CC=CC=C12)CCCCC(=O)O | C13H15NO2
